US09062033B2
methyl 2-fluoro-6-iodobenzoate (D77)
Oxalyl chloride (2.5 ml, 28.66 mmol, 1.5 eq.) was added at room temperature to a suspension of 2-fluoro-6-iodobenzoic acid (5.1 g, 19.17 mmol, 1 eq.) in 40 ml of dry DCM under nitrogen atmosphere. A few drops of dry DMF were added and the mixture was stirred at room temperature for 1 h. The solvent was removed by distillation. The obtained residue was taken up in acetonitrile, which was distilled again, to remove excess acidity. The resulting brown oil was dissolved in dry DCM and the resulting solution was dropwise added to a suspension of potassium carbonate (7 g, 50.6 mmol, 2.6 eq.) in 20 ml of dry methanol. The reaction mixture was then stirred at room temperature overnight.

reactant | Oxalyl chloride | 28.66 mmol, 2.5 ml, 1.5 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-fluoro-6-iodobenzoic acid | 19.17 mmol, 5.1 g, 1 eq. | FC1=C(C(=O)O)C(=CC=C1)I | C7H4FIO2
reactant | potassium carbonate | 50.6 mmol, 7 g, 2.6 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | A few drops | CN(C)C=O | C3H7NO
solvent | methanol | 20 ml | CO | CH4O
product | methyl 2-fluoro-6-iodobenzoate | FC1=C(C(=O)OC)C(=CC=C1)I | C8H6FIO2
